US06936632B2
b) 7-(4-Chlorophenyl)-6-phenyl-2,3-dihydro-1H-pyrrolizine
2-(4-Chlorobenzyl)-1-pyrroline (9 g, 50% strength, 25 mmol), dissolved in MeOH (75 ml) is treated with phenacyl bromide (4.97 g, 25 mmol) and then with NaHCO3 (2.5 g, 30 mmol) and stirred at RT for 16 h with exclusion of light. Precipitated crystallizate is filtered off with suction and washed with MeOH. 3.3 g (45%) of product are obtained after drying.

reactant | 2-(4-Chlorobenzyl)-1-pyrroline | 25 mmol, 9 g | ClC1=CC=C(CC2=NCCC2)C=C1 | C11H12ClN
reactant | phenacyl bromide | 25 mmol, 4.97 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | NaHCO3 | 30 mmol, 2.5 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 75 ml | CO | CH4O
product | 7-(4-Chlorophenyl)-6-phenyl-2,3-dihydro-1H-pyrrolizine | 3.3 g, 45% | ClC1=CC=C(C=C1)C=1C(=CN2CCCC12)C1=CC=CC=C1 | C19H16ClN
